US05866567
(3aR*,10aS*)-9-(3-Aminobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
Using (3aR*,10aS*)-9-(3-nitrobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one, the title compound was synthesized in otherwise the same manner as Reference Example 7. Yield 84%, m.p. 176°-178° C. (diethyl ether).

reactant | (3aR*,10aS*)-9-(3-nitrobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | [N+](=O)([O-])C=1C=C(CN2C3=C(N[C@H]4[C@@H](C2=O)CCC4)C=CC=C3)C=CC1 | C19H19N3O3
solvent | diethyl ether | C(C)OCC | C4H10O
product | (3aR*,10aS*)-9-(3-Aminobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | Yield 84% | NC=1C=C(CN2C3=C(N[C@H]4[C@@H](C2=O)CCC4)C=CC=C3)C=CC1 | C19H21N3O
